US06930114B2
Ethyl 8,9dimethoxy-3-methyl-2-(3-pyrrolidinyl-phenyl)-5,6-dihydro-pyrrolo[2,1-a]-isoquinoline-1-carboxylate
168.5 mg (1.11 mmol) of DBU and 79.9 mg (0.37 mmol) of 1,4-dibromobutane were added to a solution of 150 mg (0.37 mmol) of ethyl 2-(3-aminophenyl)-8,9-dimethoxy-3-methyl-5,6-dihydropyrrolo[2,1-a]isoquinoline-1-carboxylate obtained as described above in 3 mL of DMF. The mixture was stirred at 120° C. for 20 hours, the solvent was evaporated under reduced pressure, and the residue was taken up in an ethyl acetate/water mixture. The layers were separated, the aqueous layer was extracted with ethyl acetate, and the combined organic phases were washed with water, dried over Na2SO4 and the solvent was evaporated under reduced pressure. Chromatography on a short silica gel column using a dichloromethane/ethyl acetate 10:1 mixture as eluant, followed by crystallization from diethyl ether gave the title compound.

reactant | DBU | 1.11 mmol, 168.5 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1,4-dibromobutane | 0.37 mmol, 79.9 mg | BrCCCCBr | C4H8Br2
reactant | ethyl 2-(3-aminophenyl)-8,9-dimethoxy-3-methyl-5,6-dihydropyrrolo[2,1-a]isoquinoline-1-carboxylate | 0.37 mmol, 150 mg | NC=1C=C(C=CC1)C=1C(=C2N(CCC3=CC(=C(C=C23)OC)OC)C1C)C(=O)OCC | C24H26N2O4
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Ethyl 8,9dimethoxy-3-methyl-2-(3-pyrrolidinyl-phenyl)-5,6-dihydro-pyrrolo[2,1-a]-isoquinoline-1-carboxylate | COC=1C=C2CCN3C(C2=CC1OC)=C(C(=C3C)C3=CC(=CC=C3)N3CCCC3)C(=O)OCC | C28H32N2O4
